US08058045B2
1-(4-((1-(tert-Butoxycarbonyl)piperidin-3-yl)methylamino)-6-(5-cyanopyrazin-2-ylamino)pyridin-3-yl)-1H-pyrrole-3-carboxylic acid
tert-Butyl 3-((2-(5-cyanopyrazin-2-ylamino)-5-(3-(ethoxycarbonyl)-1H-pyrrol-1-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (42 mg, 0.077 mmol) was dissolved in ethanol (1 mL). KOH (43 mg, 0.770 mmol) was added and the solution was stirred at 50° C. for 72 h. The reaction mixture was evaporated to dryness and the residue was partitioned between water and dichloromethane. The two phases were separated and the organic phase was extracted with water. The combined aqueous phases were neutralised to pH 7 by the addition of 1M HCl and then evaporated to dryness. The product (7 mg, 17%) was used directly in the next step without further purification.

reactant | tert-Butyl 3-((2-(5-cyanopyrazin-2-ylamino)-5-(3-(ethoxycarbonyl)-1H-pyrrol-1-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.077 mmol, 42 mg | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NCC1CN(CCC1)C(=O)OC(C)(C)C)N1C=C(C=C1)C(=O)OCC | C28H34N8O4
reactant | KOH | 0.770 mmol, 43 mg | [OH-].[K+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-(4-((1-(tert-Butoxycarbonyl)piperidin-3-yl)methylamino)-6-(5-cyanopyrazin-2-ylamino)pyridin-3-yl)-1H-pyrrole-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CCC1)CNC1=C(C=NC(=C1)NC1=NC=C(N=C1)C#N)N1C=C(C=C1)C(=O)O | C26H30N8O4
